US09314464B2
Intermediate. 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine
A mixture of Intermediate 1-isopropyl-4-(2-(methylthio)pyrimidin-4-yl)-1H-pyrazol-3-amine (4.0 g, 16.0 mmol), isopentylnitrite (13.2 g, 112 mmol), and methylene iodide (30 mL) was heated at 100° C. for 3 h. Removal of the volatiles under vacuum provided a dark residue, which was purified by silica gel chromatography (2:1 hexane/ethyl acetate eluant) to afford the title compound as a solid; MS m/z: 361.1 (M+1).

reactant | 1-isopropyl-4-(2-(methylthio)pyrimidin-4-yl)-1H-pyrazol-3-amine | 16.0 mmol, 4.0 g | C(C)(C)N1N=C(C(=C1)C1=NC(=NC=C1)SC)N | C11H15N5S
reactant | isopentylnitrite | 112 mmol, 13.2 g | C(CC(C)C)ON=O | C5H11NO2
reactant | methylene iodide | 30 mL | C(I)I | CH2I2
product | 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine | IC1=NN(C=C1C1=NC(=NC=C1)SC)C(C)C | C11H13IN4S
